2111-08-26 09:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2111-8-26**] 04:33 AM
 NASAL SWAB - At [**2111-8-26**] 04:33 AM
 BLOOD CULTURED - At [**2111-8-26**] 05:12 AM
   x2
   No additional transfusions since 2units blood/ given in ED
                   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Epinephrine
   induction of AF
   Adhesive Tape (Topical)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   dexamethasone 4 mg IV q12, simvastatin, omeprazole, amiodarone,
   synthroid 75 mcg, gabapentin, lidocaine patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-8-26**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 70 (70 - 73) bpm
   BP: 103/53(65) {93/52(62) - 108/83(90)} mmHg
   RR: 14 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
                  Total In:
                  566 mL
   PO:
                  TF:
   IVF:
   Blood products:
   566 mL
   Total out:
                                                                      0 mL
                                                                    160 mL
   Urine:
   160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    406 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: Pale, no acute distre
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, ecchymoses right
   lower quadrant
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.1 g/dL
   259 K/uL
   162 mg/dL
   1.3 mg/dL
   23 mEq/L
   5.3 mEq/L
   44 mg/dL
   101 mEq/L
   133 mEq/L
   19.4 %
   19.6 K/uL
        [image002.jpg]
                             [**2111-8-26**]  02:37 AM
                             [**2111-8-26**]  05:00 AM
                             [**2111-8-26**]  08:51 AM
   WBC
   19.6
   Hct
   24.8
   23.6
   19.4
   Plt
   259
   Cr
   1.3
   TropT
   0.05
   Glucose
   162
   Other labs: PT / PTT / INR:13.1/25.4/1.1, CK / CKMB /
   Troponin-T:200/5/0.05, ALT / AST:48/39, Alk Phos / T Bili:69/1.0,
   Differential-Neuts:93.6 %, Lymph:3.4 %, Mono:2.8 %, Eos:0.1 %,
   Fibrinogen:254 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.9 g/dL, LDH:385
   IU/L, Ca++:7.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.2 mg/dL
   Fluid analysis / Other labs: Iron studies pending
   Fibrinogen 254
   Imaging: CT Head
   Assessment and Plan
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
   84 yo male with met adenocarcinoma of unclear primary, recent DVT on
   lovenox s/p IVC filter, admitted with retroperitoneal hematoma/acute
   blood loss anemia/shock in the context of fall/mechanical trauma and
   systemic anticoagulation
   1. Hypotension in the context of hypovolemia/acute blood loss anemia:
   Currently normotensive following blood transfusion/ffp.
   Given active bleeding with dropping hct this morning, will transfuse an
   additional 2 units blood
   Serial hct's q4h and serial abdominal exams
   Has 2 peripheral IV's
   Will touch base with pt's hematologist re: protamine reversal, if
   needed
   2. Lactic acidosis: resolved on repeat check
   3. Leukocytosis: likely secondary to acute bleed. Blood cultures
   pending. Most recent U/A drawn in the context of indwelling Foley- will
   obtain repeat sample after foley changed
   4. Hyperkalemia: pt received kayexelate
   5. ARF: most likely pre-renal given blood loss and high specific
   gravity on U/A. Will transfuse blood and continue to monitor urine
   output
   Other issues as per ICU housestaff team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-8-26**] 02:32 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2111-08-26 14:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2111-8-26**] 04:33 AM
 NASAL SWAB - At [**2111-8-26**] 04:33 AM
 BLOOD CULTURED - At [**2111-8-26**] 05:12 AM
   x2
   No additional transfusions since 2units blood/ given in ED
                   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Epinephrine
   induction of AF
   Adhesive Tape (Topical)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   dexamethasone 4 mg IV q12, simvastatin, omeprazole, amiodarone,
   synthroid 75 mcg, gabapentin, lidocaine patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-8-26**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 70 (70 - 73) bpm
   BP: 103/53(65) {93/52(62) - 108/83(90)} mmHg
   RR: 14 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
                  Total In:
                  566 mL
   PO:
                  TF:
   IVF:
   Blood products:
   566 mL
   Total out:
                                                                      0 mL
                                                                    160 mL
   Urine:
   160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    406 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: Pale, no acute distre
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear ;
   decreased at left base
   Abdominal: Soft, Non-tender, Bowel sounds present, ecchymoses right
   lower quadrant extending into groin
   Extremities: Right>+, Left:: 1+ edema
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: verbal
   commands, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.1 g/dL
   259 K/uL
   162 mg/dL
   1.3 mg/dL
   23 mEq/L
   5.3 mEq/L
   44 mg/dL
   101 mEq/L
   133 mEq/L
   19.4 %
   19.6 K/uL
        [image002.jpg]
                             [**2111-8-26**]  02:37 AM
                             [**2111-8-26**]  05:00 AM
                             [**2111-8-26**]  08:51 AM
   WBC
   19.6
   Hct
   24.8
   23.6
   19.4
   Plt
   259
   Cr
   1.3
   TropT
   0.05
   Glucose
   162
   Other labs: PT / PTT / INR:13.1/25.4/1.1, CK / CKMB /
   Troponin-T:200/5/0.05, ALT / AST:48/39, Alk Phos / T Bili:69/1.0,
   Differential-Neuts:93.6 %, Lymph:3.4 %, Mono:2.8 %, Eos:0.1 %,
   Fibrinogen:254 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.9 g/dL, LDH:385
   IU/L, Ca++:7.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.2 mg/dL
   Fluid analysis / Other labs: Iron studies pending
   Fibrinogen 254
   Imaging: CT Head
   Assessment and Plan
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
   84 yo male with met CNS adenocarcinoma of unclear primary s/p
   craniectomy [**7-7**], recent DVT on lovenox s/p IVC filter,  MDS, MGUS, CHF
   (ef 35%), tachy-brady syndrome s/p pacemaker, CAD s/p CABG/PTCA,
   prostate CA s/p radiation: admitted with retroperitoneal hematoma/acute
   blood loss anemia/shock in the context of fall/mechanical trauma and
   systemic anticoagulation
   1. Hypotension in the context of hypovolemia/acute blood loss anemia:
   Currently normotensive following blood transfusion/ffp.
   Given active bleeding with dropping hct this morning, will transfuse an
   additional 2 units blood
   Serial hct's q4h and serial abdominal exams
   Off lovenox; hold diuretics and cardiac meds
   Has 2 peripheral IV's- will obtain PICC for better access
   Will touch base with pt's hematologist re: anticoagulation reversal, if
   needed
   2. Lactic acidosis: resolved on repeat check
   3. Leukocytosis: likely secondary to acute bleed. Blood cultures
   pending. U/A yesterday suggested possible infection, but was drawn in
   the context of indwelling Foley- will obtain repeat sample after foley
   changed
   4. Hyperkalemia: will need to monitor closely with pt potentially
   requiring frequent transfusions.
   5. ARF: most likely pre-renal given blood loss and high specific
   gravity on U/A. Will transfuse blood and continue to monitor urine
   output
   Other issues as per ICU housestaff team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-8-26**] 02:32 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2111-08-27 07:47:00 Physician Resident Progress Note
Chief Complaint: RP bleed
   24 Hour Events:
   [**2111-8-26**]
   - bumped appropriately to total of 4 u PRBCs and 1 u FFP (in total has
   gotten 6 u PRBCs since first seen in ED)
   - K normalized with 2 doses of kayexcelate
   - hemodynamically stable
   - PICC line deferred because of leukocytosis
   - repeat UA wiht >50 WBCs, post leuk and nit; had been on suppressive
   macrodantin which was stopped earlier this month
   - macrodantin avoided because of renal clearance, started levofloxacin
   for UTI, will await culture data
   - O2 sat remained stable on 2L NC
   - scheduled oxycodone per Dr. [**Known lastname 1136**] and patient's preference
   History obtained from Patient
   Allergies:
   History obtained from PatientEpinephrine
   induction of AF
   Adhesive Tape (Topical)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Oxycodone
   Levaquin d 2
   Zofran PRN
   Neurontin 400 qhs
   Levothyroxine
   Amiodarone 200 mg daily
   Omeprazole
   Simvastatin 10 mg daily
   Dexamthasone 4 mg [**Hospital1 **]
   colace
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-8-27**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.3
   HR: 70 (70 - 73) bpm
   BP: 116/46(63) {98/19(53) - 157/83(97)} mmHg
   RR: 16 (11 - 22) insp/min
   SpO2: 93%
   Heart rhythm: V Paced
             Total In:
                                                                  3,031 mL
                                                                    315 mL
   PO:
                                                                    480 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    585 mL
                                                                     75 mL
   Blood products:
                                                                  1,966 mL
   Total out:
                                                                    725 mL
                                                                    225 mL
   Urine:
                                                                    725 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,306 mL
                                                                     90 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   GEN: nad
   Heent: EOMI, o/p clear
   CV: RRR, no m/r/g
   Pulm: CTA b/l
   Abd: soft, NT, ND, bowel sounds present
   Ext: +trace edema b/l
   Labs / Radiology
   157 K/uL
   9.8 g/dL
   139 mg/dL
   1.5 mg/dL
   25 mEq/L
   4.5 mEq/L
   48 mg/dL
   102 mEq/L
   137 mEq/L
   27.5 %
   22.7 K/uL
        [image002.jpg]
                             [**2111-8-26**]  02:37 AM
                             [**2111-8-26**]  05:00 AM
                             [**2111-8-26**]  08:51 AM
                             [**2111-8-26**]  09:49 AM
                             [**2111-8-26**]  02:10 PM
                             [**2111-8-26**]  06:04 PM
                             [**2111-8-26**]  10:20 PM
                             [**2111-8-27**]  12:57 AM
                             [**2111-8-27**]  06:30 AM
   WBC
   19.6
   23.0
   22.7
   Hct
   24.8
   23.6
   19.4
   18.6
   31.3
   31.5
   24.7
   28.0
   27.5
   Plt
   259
   168
   157
   Cr
   1.3
   1.7
   1.7
   1.6
   0.5
   1.5
   TropT
   0.05
   0.05
   Glucose
   162
   139
   Other labs: PT / PTT / INR:12.4/25.0/1.0, CK / CKMB /
   Troponin-T:244/5/0.05, ALT / AST:48/39, Alk Phos / T Bili:69/1.0,
   Differential-Neuts:93.6 %, Lymph:3.4 %, Mono:2.8 %, Eos:0.1 %,
   Fibrinogen:254 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.9 g/dL, LDH:385
   IU/L, Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1136**] is  an 84 y.o male with PMH of HTN, HL, s/p CABG, h.o
   prostate ca, MDS with recent dx adenoca of unknown primary and recent
   DVT who presents with hypotension and RP bleed.
   .
   RP bleed.  Patient was initially hypotensive, but now normotensive for
   24 hours.  S/p 6 units of PRBCs and Hct from  19.7
 27.3.  Also, s/p 1
   unit FFP.  No lovenox for 48 hours, so likely no longer
   anticoagulated.  Hct seems to have stabilized, so will hold of on
   interventional procedeure.  Patient has MDS so baseline Hct is 30.
   --transfuse for HCT >30
   -2 PIVs
   -hold diuretics and other cardiac meds for now
   -QID Hcts
   - Type and Cross 4 units
   - consider IR for embolization if unable to stabilize the bleed
   - oxycodone for back pain
   .
   Leukocytosis.  Etiologies include infection, vs, stress response, vs
   malignancy.   Also on dexamethasone.  Leukocytosis has been present for
   11 days without clear source of infection or fever.  UA positive, so
   currently on day 2 of levaquin.
   - f/u cultures
   - continue levaquin
   - trend fever curve and WBC count
   ..
   ARF.  Likely secondary to pre-renal in setting of hypovolemia.
   Baseline ~1.  Continue IVFs and PRBCs.
   - follow Cr
   - renally dose all meds
   -avoid nephrotoxins
   .
   H/o DVT.  Patient is s/p IVC filter.  Lovenox is being held for > 48
   hours due to bleed.
   -hold lovenox in setting of bleed
   .
   Adeno CA of unknown primary.   Pt undergoing heme/onc w/u. Unknown
   primary but with adenoca with metastases to the brain. Pt undergoing
   cyber knife eval.
   .
   CHF.  Patient has a history of CHF with EF of  40-45% in [**2108**].  Patient
   is s/p AICD.
   -tele
   -transfuse for goal >30
   - monitor for signs of pulmonary edema/chf in setting of fluid
   resuscitation for bleeding
   - hold aspirin, BB,  but continue statin
   .
   Hypothyroid.
   -continue outpt regimen.
   .
   FEN: cardiac diet, replete lytes prn
   .
   Prophylaxis: pneumoboots
   .
   Access: peripherals
   .
   Code: DNR/DNI unless intubation is short term.  Also, patient with ICD.
   .
   Communication: Patient
   Dr. [**Name (NI) 1136**] (son) [**Telephone/Fax (1) 9809**].
   .
   Disposition: pending hemodynamic and HCT stability
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2111-8-26**] 02:32 AM
   20 Gauge - [**2111-8-26**] 06:58 PM
   Will attempt to have picc  placed as no clear sign of infection in
   spite of wbc (likely related to steroid use).
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2111-08-27 10:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo male with met CNS adenocarcinoma of unclear primary s/p
   craniectomy [**7-7**], recent DVT on lovenox s/p IVC filter,  MDS, MGUS, CHF
   (ef 35%), tachy-brady syndrome s/p pacemaker, CAD s/p CABG/PTCA,
   prostate CA s/p radiation: admitted [**8-25**] with retroperitoneal
   hematoma/acute blood loss anemia/shock in the context of
   fall/mechanical trauma and systemic anticoagulation
   24 Hour Events:
   transfused 4u prbc yest (total 6u since admit) and 1u FFP. started on
   levofloxacin for dirty UA yest
   Allergies:
   Epinephrine
   induction of AF
   Adhesive Tape (Topical)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   dexamethasone 4 [**Hospital1 **], simvastatin, omeprazole, amiodarone, synthroid,
   gabapentin, lidocain patch, Percocet, levofloxacin, colace
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-8-27**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 70 (70 - 73) bpm
   BP: 106/60(63) {98/19(53) - 157/76(97)} mmHg
   RR: 12 (11 - 22) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
             Total In:
                                                                  3,031 mL
                                                                    585 mL
   PO:
                                                                    480 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    585 mL
                                                                    105 mL
   Blood products:
                                                                  1,966 mL
   Total out:
                                                                    725 mL
                                                                    365 mL
   Urine:
                                                                    725 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,306 mL
                                                                    220 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: B bases)
   Abdominal: Soft, Bowel sounds present, Tender: R flank
   Extremities: Right: 3+, Left: Trace, No(t) Cyanosis
   Skin:  Warm, R abd and flank ecchymoses
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   157 K/uL
   139 mg/dL
   1.5 mg/dL
   25 mEq/L
   4.5 mEq/L
   48 mg/dL
   102 mEq/L
   137 mEq/L
   27.5 %
   22.7 K/uL
        [image002.jpg]
                             [**2111-8-26**]  02:37 AM
                             [**2111-8-26**]  05:00 AM
                             [**2111-8-26**]  08:51 AM
                             [**2111-8-26**]  09:49 AM
                             [**2111-8-26**]  02:10 PM
                             [**2111-8-26**]  06:04 PM
                             [**2111-8-26**]  10:20 PM
                             [**2111-8-27**]  12:57 AM
                             [**2111-8-27**]  06:30 AM
   WBC
   19.6
   23.0
   22.7
   Hct
   24.8
   23.6
   19.4
   18.6
   31.3
   31.5
   24.7
   28.0
   27.5
   Plt
   259
   168
   157
   Cr
   1.3
   1.7
   1.7
   1.6
   0.5
   1.5
   TropT
   0.05
   0.05
   Glucose
   162
   139
   Other labs: PT / PTT / INR:12.4/25.0/1.0, CK / CKMB /
   Troponin-T:244/5/0.05, ALT / AST:48/39, Alk Phos / T Bili:69/1.0,
   Differential-Neuts:93.6 %, Lymph:3.4 %, Mono:2.8 %, Eos:0.1 %,
   Fibrinogen:254 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.9 g/dL, LDH:385
   IU/L, Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:5.2 mg/dL
   Microbiology: [**8-26**] urine and blood-pending
   Assessment and Plan
   84 yo male with met CNS adenocarcinoma of unclear primary s/p
   craniectomy [**7-7**], recent DVT on lovenox s/p IVC filter,  MDS, MGUS, CHF
   (ef 35%), tachy-brady syndrome s/p pacemaker, CAD s/p CABG/PTCA,
   prostate CA s/p radiation: admitted [**8-25**] with retroperitoneal
   hematoma/acute blood loss anemia/shock in the context of
   fall/mechanical trauma and systemic anticoagulation
   1. Hypotension in the context of hypovolemia/acute blood loss anemia:
   -currently normotensive following blood transfusion/ffp.
   -transfuse to goal hct 30
   -serial hct's q4h and serial abdominal exams
   -off lovenox; hold diuretics and cardiac meds
   -has 2 peripheral IV's
   2. Lactic acidosis: resolved on repeat check
   3. Leukocytosis: likely secondary to acute bleed. Blood cultures
   pending. U/A yesterday suggestive of infection, on empiric levofloxacin
   -cover until culture is back
   4. Hyperkalemia: will need to monitor closely with pt potentially
   requiring frequent transfusions.
   5. ARF: most likely pre-renal given blood loss and high specific
   gravity on U/A. Will transfuse blood and continue to monitor urine
   output
   6. Adenoca in brain: plan for cyber knife tomorrow
   -will touch base w/ Onc re: plans
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2111-8-26**] 02:32 AM
   20 Gauge - [**2111-8-26**] 06:58 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)- ok to intubate only for
   short-term reversible causes AFTER discussion w/ pt's HCP, Dr. [**First Name4 (NamePattern1) 318**]
   [**Known lastname 1136**]
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   I saw and examined the pt, and was present with the ICU team for the
   key portions of the services provided. I agree with Dr. [**Last Name (STitle) 9152**]
   note, including assessment and plan. Since admission to the ICU, he
   been transfused 6 units blood and 2 units ffp, majority of which was
   given yesterday. Bleeding appears to be slowing down. He has remained
   normotensive, though still off cardiac medicines, and ARF is unchanged
   or slightly better.  Plan serial hcts, remains off lovenox. His
   diuretics have continued to be held in the context of RP bleed/acute
   blood loss/pre-renal ATN, but he appears to be tolerating this well
   with no respiratory c/o
   Pt is critically ill. Total time spent: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2111-8-27**] 16:27 ------

2111-08-28 06:14:00 Physician Resident Progress Note
Chief Complaint: RP bleed.
   Patient reports stable abdominal and side pain.  He reports no
   difficulty breathing, shortness of breath, lightheadedness.
   24 Hour Events:
   - Hct 28 --> 27.5 --> 1 unit PRBC --> 27.9 --> 1 unit PRBC --> 30.2
   -->  28.7 --> 1 unit PRBCs.  In total, he has received 3 units of PRBCs
   over 24 hours, and 9 units of PRBCs total.
   - PICC line placed; CXR to confirm placement showed mild CHF.
   - outpatient radiation oncologist will proceed with cyberknife tomorrow
   if he is hemodynamically stable
   - Urology consult called because foley had been placed at time of brain
   surgery and remained in placed due to patient comfort (had episodes of
   urinary frequency and nocturia).  For a long term plan, patient will
   likely keep foley in place as it is keeping him comfortable.
   Ultimately, he will follow up with his outpatient urologist.
   - Wound care consult called regarding skin breakdown.
   - PCP visited the patient.  She thinks he would benefit from rehab stay
   after discharge.
   - Blood pressuring trending upward during the day
   - Creatinine is back at his baseline --> 1.0
   - levoquin stopped b/c UCx showed yeast
   History obtained from Patient
   Allergies:
   History obtained from PatientEpinephrine
   induction of AF
   Adhesive Tape (Topical)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Miralax prn
   Colace prn
   Oxycodone and percocet prn
   Levaquin 250 [**Hospital1 **]
   Zofran
   Lidocaine patch
   Neurontin
   Levothyroxine
   Amiodarone
   Omeprazole
   Simvastatin
   Dexamethasone 4 mg [**Hospital1 **]
   Senna
   Colace
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-8-28**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.2
C (97.2
   HR: 71 (66 - 81) bpm
   BP: 128/62(93) {106/52(63) - 170/81(104)} mmHg
   RR: 21 (11 - 24) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
           Total In:
                                                                  1,981 mL
                                                                    594 mL
   PO:
                                                                  1,080 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    176 mL
                                                                     31 mL
   Blood products:
                                                                    725 mL
                                                                    323 mL
   Total out:
                                                                    950 mL
                                                                    340 mL
   Urine:
                                                                    950 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,031 mL
                                                                    254 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, skin color improved - less pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at bases)
   Abdominal: Soft, Bowel sounds present, + large right lower and
   suprapubic hematoma
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   117 K/uL
   10.1 g/dL
   134 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   36 mg/dL
   101 mEq/L
   135 mEq/L
   28.7 %
   18.8 K/uL
        [image002.jpg]
                             [**2111-8-26**]  08:51 AM
                             [**2111-8-26**]  09:49 AM
                             [**2111-8-26**]  02:10 PM
                             [**2111-8-26**]  06:04 PM
                             [**2111-8-26**]  10:20 PM
                             [**2111-8-27**]  12:57 AM
                             [**2111-8-27**]  06:30 AM
                             [**2111-8-27**]  02:37 PM
                             [**2111-8-27**]  08:11 PM
                             [**2111-8-28**]  02:34 AM
   WBC
   23.0
   22.7
   18.8
   Hct
   19.4
   18.6
   31.3
   31.5
   24.7
   28.0
   27.5
   27.9
   30.2
   28.7
   Plt
   168
   157
   117
   Cr
   1.7
   1.7
   1.6
   0.5
   1.5
   1.0
   0.9
   TropT
   0.05
   Glucose
   139
   151
   134
   Other labs: PT / PTT / INR:12.5/23.1/1.1, CK / CKMB /
   Troponin-T:244/5/0.05, ALT / AST:48/39, Alk Phos / T Bili:69/1.0,
   Differential-Neuts:94.9 %, Lymph:2.3 %, Mono:2.2 %, Eos:0.6 %,
   Fibrinogen:254 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.9 g/dL, LDH:385
   IU/L, Ca++:7.2 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1136**] is  an 84 y.o male with PMH of HTN, HL, s/p CABG, h.o
   prostate ca, MDS with recent dx adenoca of unknown primary and recent
   DVT who presents with hypotension and RP bleed, now stabilitizing.
   .
   RP bleed.  Patient was initially hypotensive, but now normotensive for
   24 hours.  Cause of RP bleed remains unclear, but may be related to IVC
   filter that was placed two weeks earlier..  S/p 9  units of PRBCs and
   Hct from  19.7
 28.7.  Also, s/p 1 unit FFP.  No lovenox for 72 hours,
   so likely no longer anticoagulated.  Hct seems to have stabilized, so
   will hold of on interventional procedeure and his blood product
   requirements are decreasing.  Patient has MDS so baseline Hct is 30.
   --transfuse for HCT >30
   -2 PIVs and Right PICC
   - TID Hcts
   - consider IR for embolization if rate of bleed increases
   - oxycodone for back pain/flank pain
   .
   Leukocytosis.  WBC is likely not infectious given lack of fever or
   positive culture data; may be related to stress response or
   malignancy.   Also on dexamethasone which is contributing to
   leukocytosis.  Leukocytosis has been present for 12 days without clear
   source of infection or fever.  UA appeared positive but culture showed
   only yeast so levoquin was stopped after two days.
   - trend fever curve and WBC count
   .
   ARF. Pre-renal acute renal failure resolved with blood products.
   Creatinine is now at baseline.
   - follow Cr
   - renally dose all meds
   -avoid nephrotoxins
   .
   H/o DVT.  Patient is s/p IVC filter.  Lovenox has been held for > 72
   hours due to bleed.
   -hold lovenox in setting of bleed
   .
   Adeno CA of unknown primary.   Pt undergoing heme/onc w/u. Unknown
   primary but with adenoca with metastases to the brain.
 cyberknife to
   begin today
   .
   CHF.  Patient has a history of CHF with EF of  40-45% in [**2108**].  Patient
   is s/p AICD.   He has been given 9 units of PRBCs and has evidence of
   mild CHF on CXR.  He is satting well on 2LNC.
   -tele
   -transfuse for goal >30
   - monitor for signs of pulmonary edema/chf in setting of fluid
   resuscitation for bleeding
   - hold aspirin & BB, but continue statin
   - consider laisx  if oxygen requirement increases as he has been
   hemodynamically stable and has signs of mild fluid overload (home dose
   is 30 mg daily)
   .
   Hypertension.  Patient is on coreg 25 [**Hospital1 **] at home.  Given that he has
   been hemodynamically stable for two days, could consider resuming this
   today or tomorrow.
   - monitor BP and consider resuming coreg if BP continues to trend
   upward
   .
   Hypothyroid.
   -continue outpt regimen.
   .
   FEN: cardiac diet, replete lytes prn
   .
   Prophylaxis: pneumoboots
   .
   Access: peripherals
   .
   Code: DNR/DNI unless intubation is short term.  Also, patient with ICD.
   .
   Communication: Patient
   Dr. [**Name (NI) 1136**] (son) [**Telephone/Fax (1) 9809**].
   .
   Disposition: pending hemodynamic and HCT stability
   ICU Care
   Nutrition:
   Comments: Low sodium cardiac diet
   Glycemic Control:  not needed
   Lines:
   18 Gauge - [**2111-8-26**] 02:32 AM
   20 Gauge - [**2111-8-26**] 06:58 PM
   PICC Line - [**2111-8-27**] 02:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor.  Patient has been hemodynamically stable
   for 48 hours and transfusion requirements are improving.
   ------ Protected Section ------
   I saw and examined Mr. [**Known lastname 1136**] this am, and I discussed the plan with
   Dr. [**First Name (STitle) 5142**] and agree with her note and plan as above. I note that pt
   received 3u prbcs over the last 24 hrs for likely continued slow
   bleeding. Clinically, pt feels well- he continues to note R-sided
   superficial abd and flank pain. He denies LH, dizziness, cp or sob. On
   exam I note bibasilar crackles on lung exam, and abd w/ ecchymoses over
   RLQ and R flank with tenderness to palpation over the RLQ that is
   superficial. On labs I note that  most recent Hct is 28.7, INR is 1.1
   and plts 117. I agree with the plan to transfer Mr. [**Known lastname 1136**] to the [**Hospital Ward Name **] today for cyber knife procedure. He continues to have a
   transfusion requirement likely related to ongoing slow bleed, but his
   hemodynamic stability since admission indicate stability for transfer
   out of the ICU to gen medicine/ Onc floor. Given his large transfusion
   requirement over the course of his hospital stay, he should have both
   his coags and his fibrinogen monitored for possible dilutional
   coagulopathy. Pt also has an ischemic cardiomyopathy w/ depressed EF
   and fluid status will need to be monitored in the setting of volume
   resuscitation.
   Dr. [**Last Name (STitle) 9830**] [**Name (STitle) **], ICU attending, and Dr. [**Name (NI) 318**] [**Name (NI) 1136**], pt
s son, have
   been made aware of the plan as above.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 9152**], MD
   on:[**2111-8-28**] 08:21 ------